* S0 init_negative_read at 0.025ps -- BVM-S0 canonical source baseline (frozen)
* Closure: copied jjmit + bvm_cell; XBVM1 WL1 BL1 SE1 SL1 BVM; only R_LD SL1 0 12
* Init: WL/BL ramp to -100 uA over 10-11 ps, hold to 20 ps, return to 0 by 21 ps.
* Read: WL+SE +100 uA 96-105 ps (R1-derived)
.include jjmit.cir
.include bvm_cell.cir

XBVM1 WL1 BL1 SE1 SL1 BVM

R_LD SL1 0 12

I_WL1 0 WL1 pwl(0 0 10p 0 11p -100U 20p -100U 21p 0 95p 0 96p 100U 105p 100U 106p 0 170p 0)
I_BL1 0 BL1 pwl(0 0 10p 0 11p -100U 20p -100U 21p 0 170p 0)
I_SE1 0 SE1 pwl(0 0 95p 0 96p 100U 105p 100U 106p 0 170p 0)

.tran 0.025p 170p

* Direct junction probes: JM1 N1->n_jm1o ; JM2 n_jm2i->N2 ; SL1->0 ; L_SL N8->SL1
.print P(B_JM1|XBVM1) V(B_JM1|XBVM1)
.print P(B_JM2|XBVM1) V(B_JM2|XBVM1)
.print V(SL1) I(L_SL|XBVM1)
.print I(I_WL1) I(I_SE1)
.end
