* D0 init_negative — BVM-S0 initial-state discriminator
* Fixed closure: copied jjmit model + bvm_cell in this inputs/ dir
* XBVM1 WL1 BL1 SE1 SL1 BVM ; R_LD SL1 0 12 ; no read/SE stimulus
* Init: WL and BL both 0 -> -100 uA over 10-11 ps, hold through 20 ps,
*       return to 0 by 21 ps.  SE identically zero.
.include jjmit.cir
.include bvm_cell.cir

XBVM1 WL1 BL1 SE1 SL1 BVM

* ==== Canonical 12-ohm load (only load, per design) ====
R_LD SL1 0 12

* ==== Initialization: negative write (WL+BL), no read ====
I_WL1 0 WL1 pwl(0 0 9p 0 10p 0 11p -100U 20p -100U 21p 0 80p 0)
I_BL1 0 BL1 pwl(0 0 9p 0 10p 0 11p -100U 20p -100U 21p 0 80p 0)
I_SE1 0 SE1 pwl(0 0 80p 0)

.tran 0.1p 80p

* ==== Direct junction probes (positive orientations per design) ====
* JM1: N1 -> n_jm1o ; JM2: n_jm2i -> N2 ; SL: SL1 -> 0 ; L_SL: N8 -> SL
.print P(B_JM1|XBVM1) V(B_JM1|XBVM1)
.print P(B_JM2|XBVM1) V(B_JM2|XBVM1)
.print V(SL1) I(L_SL|XBVM1)
.end
